US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(piperazin-1-yl)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.09 mmol), 2-Iodo-ethanol (155 mg, 0.9 mmol) and Et3N (18 mg, 0.18 mmol) in acetone (1 mL) was heated at 80° C. for 1 h. Then the mixture was concentrated and the residue was purified by Prep-HPLC to give the title compound as a white solid (26 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(piperazin-1-yl)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.09 mmol, 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)N1CCNCC1)=O)C1=C(C=CC(=C1)F)C)=O | C29H27Cl2FN4O2
reactant | 2-Iodo-ethanol | 0.9 mmol, 155 mg | ICCO | C2H5IO
reactant | Et3N | 0.18 mmol, 18 mg | CCN(CC)CC | C6H15N
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 26 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)N1CCN(CC1)CCO)=O)C1=C(C=CC(=C1)F)C)=O | C31H31Cl2FN4O3
